US06399611B1
10 g of 2-(4-cyanobenzyl)-6-(3,4-dihydroxyphenyl)-5-ethyl-2,3,4,5-tetrahydropyridazin-3-one are added with stirring to a cooled solution of 1.2 g of NaOH in 100 ml of water and the mixture is subsequently stirred for 10 hours. It is warmed cautiously and a stream of air is passed through the solution. Cooled sulfuric acid and water are then added. The mixture is worked up in the customary manner and 2-(4-carboxybenzyl)-6-(3,4-dihydroxyphenyl)-5-ethyl-2,3,4,5-tetrahydropyridazin-3-one is obtained.

reactant | 2-(4-cyanobenzyl)-6-(3,4-dihydroxyphenyl)-5-ethyl-2,3,4,5-tetrahydropyridazin-3-one | 10 g | C(#N)C1=CC=C(CN2N=C(C(CC2=O)CC)C2=CC(=C(C=C2)O)O)C=C1 | C20H19N3O3
reactant | NaOH | 1.2 g | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | 2-(4-carboxybenzyl)-6-(3,4-dihydroxyphenyl)-5-ethyl-2,3,4,5-tetrahydropyridazin-3-one | C(=O)(O)C1=CC=C(CN2N=C(C(CC2=O)CC)C2=CC(=C(C=C2)O)O)C=C1 | C20H20N2O5
